US07563905B2
The Synthesis of 2-[4-benzyl-5-(4-chloro-benzylsulfanyl)-4H-1,2,4-triazol-3-yl]pyridine
This compound was synthesized using the same methodology as described in Example 1 above, using 2-pyridinecarboxylic acid hydrazide, benzyl isothiocyanate and 4-chlorobenzyl bromide as the starting materials.

reactant | 2-pyridinecarboxylic acid hydrazide | N1=C(C=CC=C1)C(=O)NN | C6H7N3O
reactant | benzyl isothiocyanate | C(C1=CC=CC=C1)N=C=S | C8H7NS
reactant | 4-chlorobenzyl bromide | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
product | 2-[4-benzyl-5-(4-chloro-benzylsulfanyl)-4H-1,2,4-triazol-3-yl]pyridine | C(C1=CC=CC=C1)N1C(=NN=C1SCC1=CC=C(C=C1)Cl)C1=NC=CC=C1 | C21H17ClN4S
